US07842684B2
Methyl (4-{(E)-[(4-iodophenyl)imino]methyl}phenoxy)acetate
Methyl (4-formylphenoxy)acetate (8.0 g, 40 mmol) was dissolved in 100 ml toluene and p-iodoaniline (9.1 g, 40 mmol) was added. The mixture was refluxed over night using a Dean-Stark apparatus. The reaction mixture was partly evaporated under reduced pressure. Methanol was added to the suspension and the mixture was stirred for a few minutes. The precipitate was filtered off, washed with methanol and dried under reduced pressure over night to yield the title compound. 1H-NMR (400 MHz, CDCl3) δ: 3.83 (s, 3H), 4.72 (s, 2H), 6.95 (d, 2H), 7.00 (d, 2H), 7.69 (d, 2H), 7.86 (d, 2H), 8.35 (s, 1H).

reactant | Methyl (4-formylphenoxy)acetate | 40 mmol, 8.0 g | C(=O)C1=CC=C(OCC(=O)OC)C=C1 | C10H10O4
reactant | p-iodoaniline | 40 mmol, 9.1 g | IC1=CC=C(N)C=C1 | C6H6IN
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl (4-{(E)-[(4-iodophenyl)imino]methyl}phenoxy)acetate | IC1=CC=C(C=C1)\N=C\C1=CC=C(OCC(=O)OC)C=C1 | C16H14INO3
